US07176220B2
Under an argon stream, to a suspension of zinc powder (55.1 g, 843 mmol) in tetrahydrofuran (THF; 56 ml) was added 1,2-dibromoethane (2.9 ml, 33.8 mmol) and the mixture was heated under reflux for 5 min. Then, trimethylsilyl chloride (8.6 ml, 67.5 mmol) was added at 0° C. and the mixture was stirred at 0° C. for 5 min, after which a solution of 2,3-dichlorobenzyl chloride (82.4 g, 421.7 mmol) in THF (330 ml) was added dropwise with ice-cooling. After completion of the dropwise addition, the mixture was warmed to room temperature and stirred for 1 hr to give a solution of 2,3-dichlorobenzylzinc chloride in THF.

reactant | zinc | 843 mmol, 55.1 g | [Zn] | Zn
reactant | 1,2-dibromoethane | 33.8 mmol, 2.9 ml | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 67.5 mmol, 8.6 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2,3-dichlorobenzyl chloride | 421.7 mmol, 82.4 g | ClC1=C(CCl)C=CC=C1Cl | C7H5Cl3
solvent | tetrahydrofuran | 56 ml | O1CCCC1 | C4H8O
solvent | THF | 330 ml | O1CCCC1 | C4H8O
product | 2,3-dichlorobenzylzinc chloride | [Cl-].ClC1=C(C[Zn+])C=CC=C1Cl | InChI=1S/C7H5Cl2.ClH.Zn/c1-5-3-2-4-6(8)7(5)9;;/h2-4H,1H2;1H;/q;;+1/p-1
